US08236806B2
1-(3-(5-(4-chlorophenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)-4-phenylpiperazine (Compound 71)
121 mg (80%) of target compound was obtained by using a method same as in Example 1 by using 3-(5-(4-chlorophenyl)-1-phenyl-1H-pyrazol-3-yl)-propanal (100 mg, 0.307 mmol), 1-phenylpiperazine (0.046 mL, 0.307 mmol), DIPEA (0.080 mL, 0.461 mmol) and NaBH(OAc)3 (195 mg, 0.921 mmol).

reactant | 3-(5-(4-chlorophenyl)-1-phenyl-1H-pyrazol-3-yl)-propanal | 0.307 mmol, 100 mg | ClC1=CC=C(C=C1)C1=CC(=NN1C1=CC=CC=C1)CCC=O | C18H15ClN2O
reactant | 1-phenylpiperazine | 0.307 mmol, 0.046 mL | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | DIPEA | 0.461 mmol, 0.080 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.921 mmol, 195 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3-(5-(4-chlorophenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)-4-phenylpiperazine | ClC1=CC=C(C=C1)C1=CC(=NN1C1=CC=CC=C1)CCCN1CCN(CC1)C1=CC=CC=C1 | C28H29ClN4
